US05233019
Preparation of 2,2,2-Trifluoroethyl 3-Chloropropanesulfonimidate {HN=S(O)(CH2CH2CH2Cl)OCH2CF3 }
Reactants used in the general procedure were 2,2,2-trifluoroethyl N-trimethylsilyl-3-chloropropanesulfonimidate (0.005 mol, 1.56 g) and methanol (0.03 mol, 1.3 ml). Reaction temperature was 45° C.; reaction time was 5 hours. The temperature at which volatile materials were removed did not exceed 55° C. and product yield was greater than 99%. The 1H NMR spectrum of the product (90 MHz, 30% in C6H6) exhibited maxima at the following shift values: 1.96 (m, SCH2CH2CH2Cl); 2.93 (apparent triplet with indication of multiplicity, SCH2); 3.17 (t, ClCH2, 3JHH =6.3 Hz); 3.48 (s, broad, 1H, NH); 4.03 (apparent quartet, OCH2CF3, 3JFH =8.4 Hz).

reactant | 2,2,2-trifluoroethyl N-trimethylsilyl-3-chloropropanesulfonimidate | 0.005 mol, 1.56 g | C[Si](N=S(=O)(OCC(F)(F)F)CCCCl)(C)C | C8H17ClF3NO2SSi
reactant | methanol | 0.03 mol, 1.3 ml | CO | CH4O
product | 2,2,2-Trifluoroethyl 3-Chloropropanesulfonimidate | yield was greater than 99% | ClCCCS(=O)(OCC(F)(F)F)=N | C5H9ClF3NO2S
